US05885986
A suspension of 14.4 g (0.0466 mol) of 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-3-carboxamide in a mixture of 60 ml of dioxan and 8 ml of pyridine was treated dropwise at 0° with 6.8 ml (0.049 mol) of trifluoroacetic anhydride. The dark solution was stirred at 50° for 3 hrs., cooled, poured on to 400 ml of icewater, treated with ethyl acetate and extracted. The organic solution was filtered on 100 g of silica gel and rinsed with 200 ml of ethyl acetate. The product was recrystallized from m hot ethyl acetate. There were obtained 12 g (89%) of 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepine-3-carbonitrile as light yellowish crystals; m.p. 221°-223°.

reactant | 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-3-carboxamide | 0.0466 mol, 14.4 g | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C(=O)N)C)=O)F | C13H10ClFN4O2
reactant | trifluoroacetic anhydride | 0.049 mol, 6.8 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxan | 60 ml | O1CCOCC1 | C4H8O2
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepine-3-carbonitrile | 12 g, 89% | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C#N)C)=O)F | C13H8ClFN4O
